US08530674B2
In the step (iv) of the process of the present invention, the reaction of (S)-(−)-3-methylamino-1-(2-thienyl)propan-1-ol and halonaphthalene is carried out by using a proper base such as potassium tert-butoxide in a suitable amount of DMSO to form (S)-(+)-N-methyl-3-(1-naphthyloxy)-3-(2-thienyl)propylamine (Duloxetine®). The excess amount of halonaphthalene, ranging from about 1.5 to 4 equivalents, can be recovered. The reaction is performed at a temperature ranged from 20° C. to 110° C., preferably from 40° C. to 90° C., for 1 to 24 hours. One embodiment of the present invention is conducted in the presence of excess halonaphthalene and a suitable amount of DMSO to overcome the problems regarding racemization and environmental protection. In one preferred embodiment, DMSO is used in amounts ranging from one to ten times the amount of (S)-(−)-3-methylamino-1-(2-thienyl)propan-1-ol, more preferably from one to five times the amount of (S)-(+3-methylamino-1-(2-thienyl)propan-1-ol.

reactant | (S)-(−)-3-methylamino-1-(2-thienyl)propan-1-ol | CNCC[C@H](O)C=1SC=CC1 | C8H13NOS
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | DMSO | CS(=O)C | C2H6OS
product | (S)-(+)-N-methyl-3-(1-naphthyloxy)-3-(2-thienyl)propylamine | CNCC[C@@H](C=1SC=CC1)OC1=CC=CC2=CC=CC=C12 | C18H19NOS
